US08084644B2
N-methyl-N-phenyl-N′-phenylpropynamidine (0.23 g) was dissolved to chloroform (5 ml), chloroform (5 ml) solution of 4-chlorothiophenol (0.14 g) was added dropwise under ice-cooling and stirred for 14 hours at room temperature. The reaction solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:1) to obtain N-methyl-N-phenyl-N′-phenyl-3-(4-chlorophenylthio)acrylamidine (0.22 g) as light yellow oil.

reactant | N-methyl-N-phenyl-N′-phenylpropynamidine | 0.23 g | CN(C(C#C)=NC1=CC=CC=C1)C1=CC=CC=C1 | C16H14N2
reactant | 4-chlorothiophenol | 0.14 g | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-N-phenyl-N′-phenyl-3-(4-chlorophenylthio)acrylamidine | 0.22 g | CN(C(C=CSC1=CC=C(C=C1)Cl)=NC1=CC=CC=C1)C1=CC=CC=C1 | C22H19ClN2S
